US07435837B2
Treatment of 3-bromo-4-hydroxybenzonitrile (10.0 g, 50.0 mmol) with potassium carbonate (27.9 g, 200 mmol) and allyl bromide (7.96 g, 66.0 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-5-bromo-4-hydroxybenzonitrile. Treatment of 3-allyl-5-bromo-4-hydroxybenzonitrile (4.63 g, 19.0 mmol) with 3-chloroperoxybenzoic acid (6.2 g, 35.93 mmol, 77%) followed by potassium carbonate (6.56 g, 47.5 mmol) generally according to the procedure described for Intermediate 9 afforded 1.30 g (426) of (±)-7-bromo-2-(hydroxymethyl)-2,3-dihydro-1-benzofuran-5-carbonitrile. Treatment of (±)-7-bromo-2-(hydroxymethyl)-2,3-dihydro-1-benzofuran-5-carbonitrile (1.3 g, 5.0 mmol) with p-toluenesulfonyl chloride (1.02 g, 5.4 mol) generally according to the procedure described for Intermediate 10 gave 1.5 g (72%) of (±)-(7-bromo-5-cyano-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Treatment of (±)-(7-bromo-5-cyano-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.30 g, 0.73 mmol) and 2-methylphenylboronic acid (0.3 g, 2.20 mmol) generally according to the procedure described for Intermediate 35 afforded 0.33 g, (99%) of (±)-[5-cyano-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.26 g, 4.0 mmol) generally according to the procedure described for Intermediate 98 afforded 0.17 g (74%) of (±)-2-(azidomethyl)-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-5-carbonitrile. Treatment of the azide with polymer-supported triphenylphosphine (0.24 g, 0.67 mmol) according to the procedure described in Example 154 afforded 0.118 g (53%) of (±)-2-(aminomethyl)-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-5-carbonitrile as a white solid, hydrochloride salt. mp 127-129° C.

reactant | 3-bromo-4-hydroxybenzonitrile | 50.0 mmol, 10.0 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | potassium carbonate | 200 mmol, 27.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 66.0 mmol, 7.96 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | 3-allyl-5-bromo-4-hydroxybenzonitrile | C(C=C)C=1C=C(C#N)C=C(C1O)Br | C10H8BrNO
reactant | 3-allyl-5-bromo-4-hydroxybenzonitrile | 19.0 mmol, 4.63 g | C(C=C)C=1C=C(C#N)C=C(C1O)Br | C10H8BrNO
reactant | 3-chloroperoxybenzoic acid | 35.93 mmol, 6.2 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 47.5 mmol, 6.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (±)-7-bromo-2-(hydroxymethyl)-2,3-dihydro-1-benzofuran-5-carbonitrile | 1.30 g | BrC1=CC(=CC=2CC(OC21)CO)C#N | C10H8BrNO2
